US07214673B2
2-Cyclopentyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Combine N-methyl piperazine (0.264 g, 2.64 mmol) and 2-cyclopentyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo{f}azulene-10-thione (0.205 g, 0.66 mmol) in 7 ml of pyridine, and heat to reflux over night. Cool to room temperature, remove pyridine, the residue purify on silica gel using 2N ammonia in methanol/ dichloromethane (1:10) as the eluent to give 165 mg foam, which recrystallize in methanol to give 110 mg of title compound: Mass spectrum (electrospray) (m/e): C20H25N5S, Cacl. Mass (M): 367.18, Found: 368.18 (M+1); 1H NMR (400 MHz, CDCl3) δ ppm: 6.97–6.90 (m, 2H), 6.81 (dt, 1H, J=7.3 Hz, J=1.0 Hz), 6.55 (dd, 1H, J=7.8 Hz, J=1.5 Hz), 4.96 (br, 1H), 3.2–3.17 (m, 1H), 2.49–2.47 (m, 4H), 2.28 (s, 3H), 2.03–1.97 (m, 2H), 1.71–1.55 (m, 10H).

reactant | N-methyl piperazine | 2.64 mmol, 0.264 g | CN1CCNCC1 | C5H12N2
reactant | 2-cyclopentyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo{f}azulene-10-thione | 0.66 mmol, 0.205 g | C1(CCCC1)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C15H15N3S2
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | 2-Cyclopentyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 165 mg | C1(CCCC1)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3CCN(CC3)C | C20H25N5S
